* Selected-value RTD hardware-window operating-point model.
*
* This deck deliberately models the captured passive networks: the MAX31865
* VBIAS/RREF/RTD divider, REF2025 VBIAS threshold dividers, and TPS3700
* RTD_AVDD divider. Comparator and logic transfer functions remain behavioural
* because vendor macro-models are not in the repository. Tolerance/offset/PVT
* coverage belongs to the companion Hypothesis model.

.param VSAFE=3.3 VMAXBIAS=2.0 VREF2025=1.25 VTPS=0.3935

V_SAFE safety_3v3 0 {VSAFE}
V_MAX_BIAS max_bias 0 {VMAXBIAS}
V_REFERENCE reference_vbias 0 {VREF2025}
V_AVDD rtd_avdd 0 3.3

* MAX31865 local RTD-current-drop node: VBIAS -> RREF -> REFIN-/ISENSOR -> RTD.
R_RREF max_bias refin_minus 430
R_RTD refin_minus 0 100

* REF2025 1.25 V divider thresholds captured in RTDSensing.
R_LOW_TOP reference_vbias low_threshold 61.3k
R_LOW_BOTTOM low_threshold 0 10k
R_HIGH_TOP reference_vbias high_threshold 5.93k
R_HIGH_BOTTOM high_threshold 0 10k

* TPS3700 IN_A divider captured in RTDSensing. OUTA is low below VIT-.
R_AVDD_TOP rtd_avdd rail_monitor_in 616k
R_AVDD_BOTTOM rail_monitor_in 0 100k

* Behavioural comparator/logic equivalents for their rated operating region.
B_LOW_OK low_ok 0 V={ternary_fcn(v(refin_minus)>v(low_threshold),v(rtd_avdd),0)}
B_HIGH_OK high_ok 0 V={ternary_fcn(v(refin_minus)<v(high_threshold),v(rtd_avdd),0)}
B_RAIL_OK rail_ok 0 V={ternary_fcn(v(rail_monitor_in)>VTPS,v(safety_3v3),0)}
R_PULLUP safety_3v3 rtd_hw_fault 10k
B_OPEN_DRAIN rtd_hw_fault 0 I={ternary_fcn((v(low_ok)>1.35)*(v(high_ok)>1.35)*(v(rail_ok)>1.35),v(rtd_hw_fault)/100,0)}

.control
set noaskquit

* Fault boundaries and valid PT100 range using the actual selected values.
alter R_RTD resistance = 10
alter V_AVDD dc = 3.3
op
echo CASE_SHORT_10R
print v(refin_minus) v(low_threshold) v(high_threshold) v(rtd_hw_fault)

alter R_RTD resistance = 100
op
echo CASE_VALID_100R
print v(refin_minus) v(low_threshold) v(high_threshold) v(rtd_hw_fault)

alter R_RTD resistance = 194.1
op
echo CASE_VALID_194R1
print v(refin_minus) v(low_threshold) v(high_threshold) v(rtd_hw_fault)

alter R_RTD resistance = 300
op
echo CASE_OPEN_300R
print v(refin_minus) v(low_threshold) v(high_threshold) v(rtd_hw_fault)

* The upstream TPS3700 path removes permission before TLV3201 supply minimum.
alter R_RTD resistance = 100
alter V_AVDD dc = 2.75
op
echo CASE_AVDD_BROWNOUT
print v(rail_monitor_in) v(rtd_hw_fault)
quit
.endc

.end
